US04870087
A mixture of 4.03 g of 3-[4-(4-(2-thienyl)-1,2,3,6-tetrahydropyridyl)butyl]-6-methoxyindole hydrochloride and 3.5 g of pyridine hydrochloride is stirred at 160° for 3 hours. After the usual work-up, 3-[4-(4-(2-thienyl)-1,2,3,6-tetrahydropyridyl)butyl]-6-hydroxyindole of m.p. 181° is obtained.

reactant | 3-[4-(4-(2-thienyl)-1,2,3,6-tetrahydropyridyl)butyl]-6-methoxyindole hydrochloride | 4.03 g | Cl.S1C(=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC(=CC=C12)OC
reactant | pyridine hydrochloride | 3.5 g | Cl.N1=CC=CC=C1
product | 3-[4-(4-(2-thienyl)-1,2,3,6-tetrahydropyridyl)butyl]-6-hydroxyindole | S1C(=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC(=CC=C12)O | C21H24N2OS
